US05610293
J. Synthesis of [Manganese(II)dichloro(2-Octadecyl-1,4,7,10,13,-pentaazacyclopentadecane)]
To a refluxing solution of anhydrous manganese(II) chloride (0.18 g, 1.4 mmol) in anhydrous methanol (50 ml) was added 2-octadecyl-1,4,7,10,13-pentaazacyclopentadecane prepared as in example 28I (0.65 g, 1.4 mmol). The resulting solution was refluxed under a dry nitrogen atmosphere for 2 h and then stirred at room temperature overnight. The solvent was removed in vacuo, the oily residue redissolved in hot THF (20 ml) and filtered. The solution was concentrated and hot. ethyl ether was added with stirring to give 0.62 g (75% yield) of the product as a white solid: FAB mass spectrum (NBA) m/z (relative intensity) 556/558 [(M-Cl)+, 100/34]; Exact mass (M-Cl)+ : calcd., 557.3996; found, 557.4058 (C26H61N5MnCl).

reactant | manganese(II) chloride | 1.4 mmol, 0.18 g | [Cl-].[Mn+2].[Cl-]
reactant | 2-octadecyl-1,4,7,10,13-pentaazacyclopentadecane | C(CCCCCCCCCCCCCCCCC)C1NCCNCCNCCNCCNC1 | C28H61N5
solvent | methanol | 50 ml | CO | CH4O
product | Manganese(II)dichloro(2-Octadecyl-1,4,7,10,13,-pentaazacyclopentadecane) | 0.62 g, 75% yield | ClC1(N(CCNCCNCCNCCNC1)Cl)CCCCCCCCCCCCCCCCCC.[Mn+2] | InChI=1S/C28H59Cl2N5.Mn/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-28(29)27-34-24-23-32-20-19-31-21-22-33-25-26-35(28)30;/h31-34H,2-27H2,1H3;/q;+2
